US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′biphenyl-3-yl)tetrahydrofuran-2- carboxamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide and tetrahydrofuran-2-carboxylic acid. using method D. NMR; δH [2H6]—DMSO 9.65,(1H, s), 8.61,(1H, t), 7.91,(2H, d), 7.63-7.60,(2H, m), 7.41,(2H, d), 7.22,(1H, d), 4.36,(1H, m), 3.97,(1H, q), 3.81,(1H, q), 3.16,(2H, t), 2.17,(4H, m), 1.97,(1H, m), 1.84,(2H, m), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.12 min, MH+379.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | tetrahydrofuran-2-carboxylic acid | O1C(CCC1)C(=O)O | C5H8O3
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′biphenyl-3-yl)tetrahydrofuran-2- carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1OCCC1 | C23H26N2O3
